US09422296B2
4-Phenyl-6-piperazin-1-yl-pyridazine-3-carbonitrile (E10)
To a solution of 4-(6-cyano-5-phenyl-pyridazin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester (D14) (0.133 g, 0.37 mmol) in methanol (10 ml) was added Amberlyst® 15 ion exchange resin, acidic form (4.1 mmol/g) (1.3 g, 5.3 mmol) and the reaction mixture was shaken at room temperature for 18 h. After this period, the mixture was filtered and then a saturated solution of ammonia in methanol was added. The mixture was shaken for 1 h, filtered and the filtrate evaporated in vacuo. The residue was purified by HPLC. The desired fractions were collected and evaporated in vacuo to yield EN (0.06989 g, 72%) as a white solid. C15H15N5 requires 265; Found 266 (MH+).

reactant | 4-(6-cyano-5-phenyl-pyridazin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.37 mmol, 0.133 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1N=NC(=C(C1)C1=CC=CC=C1)C#N | C20H23N5O2
solvent | methanol | 10 ml | CO | CH4O
product | 4-Phenyl-6-piperazin-1-yl-pyridazine-3-carbonitrile | C1(=CC=CC=C1)C1=C(N=NC(=C1)N1CCNCC1)C#N | C15H15N5
